US05990133
6-Chloro-5-methyl-1-(4-methyl-3-(pyrid-3-yl)-phenylcarbamoyl) indoline
4-Methyl-3-(pyrid-3-yl) aniline (0.30 g, 0.0016 mole) in dry dichloromethane (20 ml) was added, under argon, to 1,1'-carbonyldiimidazole in dry dichloromethane (10 ml) (0.30 g, 0.0018 mole) and stirred at ambient temperature for 1 hour. The solvent was removed in vacuo and the residue dissolved in dry dimethylformamide (30 ml). 6-Chloro-5-methylindoline (see WO 95/01976) (0.27 g, 0.0016 mole) in dry dimethylformamide (10 ml) was added and the mixture heated to 100° C. for 1 hour. After cooling to ambient temperature, the solvent was removed in vacuo and the residue diluted with deionised water (15 ml), extracted into dichloromethane (2×20 ml), dried (Na2SO4) and evaporated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with 3% methanol/dichloromethane and the resulting solid recrystallised from ethyl acetate/methanol/60-80° petroleum ether to afford the title compound (0.31 g, 57%) as a cream solid (mp 202-203° C.).

reactant | 4-Methyl-3-(pyrid-3-yl) aniline | 0.0016 mole, 0.30 g | CC1=C(C=C(N)C=C1)C=1C=NC=CC1 | C12H12N2
reactant | 1,1'-carbonyldiimidazole | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 6-Chloro-5-methylindoline | 0.0016 mole, 0.27 g | ClC1=C(C=C2CCNC2=C1)C | C9H10ClN
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dichloromethane | 0.0018 mole, 10 ml, 0.30 g | ClCCl | CH2Cl2
product | 6-Chloro-5-methyl-1-(4-methyl-3-(pyrid-3-yl)-phenylcarbamoyl) indoline | 0.31 g, 57% | ClC1=C(C=C2CCN(C2=C1)C(NC1=CC(=C(C=C1)C)C=1C=NC=CC1)=O)C | C22H20ClN3O
